US03959309
Ethyl 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole-9-propionate
Following a procedure similar to that described in Example 256 and using 20 g. of 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole, 20 g. of ethyl acrylate, 1 ml. of 35% benzyltrimethylammonium hydroxide in methyl alcohol and 150 ml. of benzene and increasing the reflux time to three hours, there was obtained, on the evaporation of the reaction mixture to dryness, on oil, a solution of which in ethyl alcohol was treated with hydrogen chloride in ethyl alcohol. The resulting solids were filtered to give, after recrystallization from aqueous ethyl alcohol, 20.5 g. of ethyl 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole-9-propionate hydrochloride, m.p. 259°-261°C.

reactant | 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC=CC=C3C2C1)C | C14H18N2
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | hydrogen chloride | Cl | ClH
solvent | methyl alcohol | CO | CH4O
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole-9-propionate | CN(C1CCC=2N(C3=CC=CC=C3C2C1)CCC(=O)OCC)C | C19H26N2O2
